US05158947
REFERENCE EXAMPLE 4 Preparation of 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzodiazepine-3,5-dione
In 10 ml of dimethylformamide (DMF) was dissolved 100 mg of 2,3,4,5-tetrahydro-1,4-benzodiazepine-3,5-dione and the solution then ice-cooled. Then, to the resulting solution were added 0.116 ml (1.5 equivalent) of 1,5-dibromopentane and 27.3 mg (1.2 equivalent) of a 60% sodium hydride oil dispersion and the mixture was stirred for 2 hours with ice-cooling. The reaction solution was poured into ice-cooled water containing citric acid, made alkaline with sodium hydrogen carbonate, and extracted with ethyl acetate. The ethyl acetate phase was then washed with an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The product was purified in the same manner as in Reference Example 1 to give 97.5 mg (yield: 52.8%) of the title compound.

reactant | 2,3,4,5-tetrahydro-1,4-benzodiazepine-3,5-dione | 100 mg | N1CC(NC(C2=C1C=CC=C2)=O)=O | C9H8N2O2
reactant | 1,5-dibromopentane | 0.116 ml, 1.5 equivalent | BrCCCCCBr | C5H10Br2
reactant | sodium hydride oil dispersion | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(5-bromopentyl)-2,3,4,5-tetrahydro-1,4-benzodiazepine-3,5-dione | 97.5 mg, yield: 52.8% | BrCCCCCN1C(CNC2=C(C1=O)C=CC=C2)=O | C14H17BrN2O2
